US07186749B2
Step 1: Methyl {[6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetate.
In a similar manner as described in step 6 of Example 1, the title compound was prepared from 6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthol (0.200 g, 0.553 mmol), prepared in step 2 of Example 11, methyl bromoacetate (0.102 g, 0.664 mmol) and cesium carbonate (0.900 g, 2.77 mmol) with the exception that the product was extracted with methylene chloride. Purification on a Biotage Horizon™ system with a KP-Sil Flash 40+M column (100 g Silica Gel, 60 Å) using 55% to 95% methylene chloride in hexane as the eluent gave methyl {[6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetate as an off-white solid (0.22 g, 92%), mp 188–189° C. Elemental Analysis for C29H23NO3.0.16 CH2Cl2 Calc'd: C, 78.34; H, 5.26; N, 3.13. Found: C, 77.73; H, 5.08; N, 3.07.

reactant | 6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthol | 0.553 mmol, 0.200 g | C1(=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)O | C26H19NO
reactant | methyl bromoacetate | 0.664 mmol, 0.102 g | BrCC(=O)OC | C3H5BrO2
reactant | cesium carbonate | 2.77 mmol, 0.900 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | methyl {[6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetate | 0.22 g, 92% | C1(=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OCC(=O)OC | C29H23NO3
